US09226916B2
{(3S,4R)-4-(4-Chloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-pyrrolidine-3-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester
To a solution of [(3S,4R)-4-(4-chloro-phenyl)-1-(pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester (408 mg, 0.92 mmol) in THF (4 mL) was added under an atmosphere of nitrogen tetrahydro-4H-pyran-4-one (25 mg, 0.25 mmol). After stirring for 15 min. at ambient temperature sodium triacetoxyborohydride (252 mg, 1.19 mmol) was added and stirred continued for 4 h at ambient temperature. The reaction mixture was diluted with ethyl acetate (10 mL) and washed with an aqeuous solution of sodium carbonate (10 mL). The aqueous layer was extracted with ethyl acetate (10 mL) and the combined organic layers were dried of sodium sulfate. Concentration and purification by chromatography (SiO2, ethyl acetate:methanol=100:0 to 80:20) afforded the title compound (115 mg, 24%) as a light yellow oil. MS m/e: 530.3 [M]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-1-(pyrrolidine-3-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 0.92 mmol, 408 mg | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CNCC1)=O | C23H25ClFN3O3
reactant | sodium triacetoxyborohydride | 1.19 mmol, 252 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | {(3S,4R)-4-(4-Chloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-pyrrolidine-3-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester | 115 mg, 24% | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CN(CC1)C1CCOCC1)=O | C28H33ClFN3O4
